US04472435
Hydrogen chloride is conducted for 10 minutes into a solution of 2.7 g (8.59 mmol) of 2-amino-2'-[α-(hydroxyimino)benzyl]-4'-nitro-acetanilide in 150 ml of methylene chloride and 30 ml of ethanol. The solution is subsequently evaporated to dryness and the residue is dried at 60° overnight in vacuo. There is obtained 2-amino-2'-[α-(hydroxyimino)benzyl]-4'-nitro-acetanilide hydrochloride of melting point 150° (decomposition).

reactant | Hydrogen chloride | Cl | ClH
reactant | 2-amino-2'-[α-(hydroxyimino)benzyl]-4'-nitro-acetanilide | 8.59 mmol, 2.7 g | NCC(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])C(C1=CC=CC=C1)=NO | C15H14N4O4
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-amino-2'-[α-(hydroxyimino)benzyl]-4'-nitro-acetanilide hydrochloride | Cl.NCC(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])C(C1=CC=CC=C1)=NO | InChI=1S/C15H14N4O4.ClH/c16-9-14(20)17-13-7-6-11(19(22)23)8-12(13)15(18-21)10-4-2-1-3-5-10;/h1-8,21H,9,16H2,(H,17,20);1H
